US05283361
C. 2-(4-fluorophenylthio)-6-fluorobenzyl alcohol
LiAlH4 (0.77 g, 20.4 mmol) is suspended in 30 ml of dry diethyl ether with cooling in an ice bath. 2-(4--fluorophenylthio)-6-fluorobenzoic acid (4.53 g, 17.0 mmol) in 6 ml of diethyl ether and 6 ml of THF is then added and the reaction mixture stirred at room temperature overnight. The reaction mixture is quenched sequentially with 0.8 ml of water, 0.8 ml of 15% NaOH aqueous solution, and 2.4 ml of water. The resulting white precipitate is filtered off and washed thoroughly with diethyl ether. The filtrate and washings are combined and concentrated to afford the subtitle compound.

reactant | LiAlH4 | 20.4 mmol, 0.77 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(4--fluorophenylthio)-6-fluorobenzoic acid | 17.0 mmol, 4.53 g | FC1=CC=C(C=C1)SC1=C(C(=O)O)C(=CC=C1)F | C13H8F2O2S
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(4-fluorophenylthio)-6-fluorobenzyl alcohol | FC1=CC=C(C=C1)SC1=C(CO)C(=CC=C1)F | C13H10F2OS
